US04053601
3-[5-Amino-2-(3-t-butylamino-3-hydroxypropoxy)phenyl]-6-hydrazinopyridazine
Reaction of 6-[5-amino-2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-3(2H)-pyridazinethione with hydrazine hydrate under similar conditions to those described in Example 2(vi) gave the title compound.

reactant | 6-[5-amino-2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-3(2H)-pyridazinethione | NC=1C=CC(=C(C1)C=1C=CC(NN1)=S)OCC(CNC(C)(C)C)O | C17H24N4O2S
reactant | hydrazine hydrate | O.NN
product | 3-[5-Amino-2-(3-t-butylamino-3-hydroxypropoxy)phenyl]-6-hydrazinopyridazine | NC=1C=CC(=C(C1)C=1N=NC(=CC1)NN)OCCC(O)NC(C)(C)C | C17H26N6O2
